US04788199
Thionyl chloride (0.78 cc) is added in the course of 10 minutes to a stirred solution, cooled beforehand to 0° C., of 3-phenyl-1-naphthalenemethanol (1 g) in chloroform (20 cc), and the temperature is then allowed to rise to room temperature (approximately 20° C.). The mixture is stirred for 15 hours at this temperature and the solvent evaporated under reduced pressure. 1-Chloromethyl-3-phenylnaphthalene (1.1 g) is obtained, the proton NMR spectrum of which, in deuterated chloroform, shows the following characteristics:

reactant | Thionyl chloride | 0.78 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 3-phenyl-1-naphthalenemethanol | 1 g | C1(=CC=CC=C1)C=1C=C(C2=CC=CC=C2C1)CO | C17H14O
solvent | chloroform | 20 cc | C(Cl)(Cl)Cl | CHCl3
product | 1-Chloromethyl-3-phenylnaphthalene | 1.1 g | ClCC1=CC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C17H13Cl
